US05110956
2-(1,3-Benzodioxol-5-yl)ethanethiol
750 g of 5-(2-bromoethyl)-1,3-benzodioxole was dissolved in 1 l of ethanol. 312 g of thiourea was added to the solution and the mixture was heated under reflux on a boiling water bath for 2 h. The reaction mixture was cooled. A solution of 300 g of sodium hydroxide in 1 l of water was added thereto and the mixture was heated under reflux on a boiling water bath for 45 min. After cooling, 3 l of water was added thereto and the product was extracted with 5 l of ethyl acetate. The extract was washed with dilute hydrochloric acid. It was then washed with water until the washing became substantially neutral and dried over anhydrous sodium sulfate. The solvent was distilled off at 40° C. to obtain about 570 g of a faint yellow oil. It was purified according to column chromatography with about 3 kg of silica gel (hexane : benzene=2:1) to obtain 310 g of the intended compound in the form of a colorless oil.

reactant | 5-(2-bromoethyl)-1,3-benzodioxole | 750 g | BrCCC1=CC2=C(OCO2)C=C1 | C9H9BrO2
reactant | thiourea | 312 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 300 g | [OH-].[Na+]
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | water | 1 l | O | H2O
solvent | water | 3 l | O | H2O
product | 2-(1,3-Benzodioxol-5-yl)ethanethiol | about 570 g | O1COC2=C1C=CC(=C2)CCS | C9H10O2S
